US04515799
A solution of 2-azidoethanol (160 g) in tetrahydrofuran (300 ml) was added over 40 minutes to a suspension of sodium hydride (114 g; 80% dispersion in oil) in tetrahydrofuran (500 ml). The mixture was stirred at room temperature for 1 hour and the ice-cooled solution treated with a solution of ethyl 4-chloroacetoacetate (276 g) in tetrahydrofuran (250 ml) dropwise over 2 hours. The mixture was stirred at room temperature for 16 hours, diluted with ethanol (150 ml), and the pH adjusted to 6-7 with 4M hydrochloric acid. Sufficient water was added to dissolve the solid present and the layers were separated. The organic layer was evaporated and the residue diluted with water (600 ml) and evaporated. The residue was then partitioned between ethyl acetate and water and the aqueous layer extracted twice with ethyl acetate. The combined ethyl acetate extracts were dried (MgSO4) and evaporated to give ethyl 4-(2-azidoethoxy)acetoacetate as a brown oil which was shown by g.l.c. to be 73% pure. A mixture of this crude product and ammonium acetate (92.3 g) in ethanol (600 ml) was heated under reflux for 1 hour, allowed to cool to room temperature and treated with methyl 2-(2-chlorobenzylidene)acetoacetate (286.6 g). The mixture was heated under reflux for 5.5 hours and then evaporated. The residue was stirred with methanol (1.5 l) for 16 hours and the resulting solid collected, washed twice with methanol, dried and recrystallised from methanol to give the title compound (78 g), m.p. 145°-146°.

reactant | 2-azidoethanol | 160 g | N(=[N+]=[N-])CCO | C2H5N3O
reactant | sodium hydride | 114 g | [H-].[Na+]
reactant | ethyl 4-chloroacetoacetate | 276 g | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | hydrochloric acid | 4M | Cl | ClH
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | ethyl 4-(2-azidoethoxy)acetoacetate | N(=[N+]=[N-])CCOCC(CC(=O)OCC)=O | C8H13N3O4
